US08445509B2
Production of N-(2-bromo-4-fluorophenyl)-2-cyanoacetamide
A mixture of 2-bromo-4-fluoroaniline (10.0 g, 52.6 mmol), cyanoacetic acid (5.36 g, 63.1 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide•hydrochloride (15.1 g, 78.9 mmol), 1H-1,2,3-benzotriazol-1-ol (10.6 g, 78.9 mmol), triethylamine (10.9 mL, 78.9 mmol) and N,N-dimethylformamide (150 mL) was stirred at room temperature for 16 hr. The mixture was diluted with ethyl acetate, washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and filtered through a pad packed with NH silica gel. The solvent was evaporated under reduced pressure, and the obtained residue was washed with hexane and collected by filtration to give the title compound (8.04 g, 59%) as a white solid.

reactant | 2-bromo-4-fluoroaniline | 52.6 mmol, 10.0 g | BrC1=C(N)C=CC(=C1)F | C6H5BrFN
reactant | cyanoacetic acid | 63.1 mmol, 5.36 g | C(#N)CC(=O)O | C3H3NO2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide•hydrochloride | 78.9 mmol, 15.1 g | CN(CCCN=C=NCC)C.Cl
reactant | 1H-1,2,3-benzotriazol-1-ol | 78.9 mmol, 10.6 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | triethylamine | 78.9 mmol, 10.9 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | N-(2-bromo-4-fluorophenyl)-2-cyanoacetamide | 8.04 g, 59% | BrC1=C(C=CC(=C1)F)NC(CC#N)=O | C9H6BrFN2O
